US05731452
Using as the materials and reagents (1E,3S)-1-iodo-3-(tert-butyldimethylsiloxy)-1-octene (442 mg, 1.2 mmol), tert-butyllithium (1.54 mol/l, 1.56 ml, 2.4 mmol), 1-hexynylcopper (174 mg), hexamethylphosphorous triamide (436 μl), (4R)-tert-butyldimethylsiloxy-2-(5-methoxycarbonyl-pentylthio)-2-cyclopenten-1-one (373 mg, 1.0 mmol), and benzoic anhydride (661 mg), the same procedure was performed as in Example 1 to obtain methyl(11R,12S,13E,15S)-9-benzoyloxy-11,15-bis(tert-butyldimethylsiloxy)-7-thiaprosta-8,13-dienoate (239 mg, 33%).

reactant | (1E,3S)-1-iodo-3-(tert-butyldimethylsiloxy)-1-octene | 1.2 mmol, 442 mg | I\C=C\[C@H](CCCCC)O[Si](C)(C)C(C)(C)C | C14H29IOSi
reactant | tert-butyllithium | 2.4 mmol, 1.54 mol/l, 1.56 ml | C(C)(C)(C)[Li]
reactant | 1-hexynylcopper | 174 mg | C(#CCCCC)[Cu]
reactant | (4R)-tert-butyldimethylsiloxy-2-(5-methoxycarbonyl-pentylthio)-2-cyclopenten-1-one | 1.0 mmol, 373 mg | C(C)(C)(C)[C@@H]1C(=C(C(C1)=O)SCCCCCC(=O)OC)O[SiH](C)C | C18H32O4SSi
reactant | benzoic anhydride | 661 mg | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | hexamethylphosphorous triamide | 436 μl | CN(P(N(C)C)N(C)C)C | C6H18N3P
product | methyl(11R,12S,13E,15S)-9-benzoyloxy-11,15-bis(tert-butyldimethylsiloxy)-7-thiaprosta-8,13-dienoate | 239 mg, 33% | COC(CCCCCSC1=C(C[C@H]([C@@H]1\C=C\[C@H](CCCCC)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)OC(C1=CC=CC=C1)=O)=O | C39H66O6SSi2
